US05929117
3,4-Dimethoxy-3'-aminobenzophenone
To a solution of 3,4-dimethoxy-3'-nitrobenzophenone (0.5 g, 1.7 mmol) in 40 mL of ethyl acetate was added 0.05 g of 10% palladium on carbon catalyst. The mixture was hydrogenated in a Parr-Shaker apparatus at 55-60 psi of hydrogen for 1.5 hours. The reaction mixture was filtered through celite and the filtrate was concentrated in vacuo to afford the crude product. The crude product was purified by flash column chromatography (silica gel, 10% ethyl acetate/methylene chloride) to afford 0.17 g (38%) of the product as a yellow solid: mp 157-175 ° C.; 1H NMR (CDCl3) δ 7.56-6.80 (m, 7H); 3.95 (s, 3H), 3.94 (s, 3H); 13C NMR (CDCl3) δ 195.7, 152.9, 148.9, 146.4, 139.3, 130.3, 128.9, 125.4, 120.1, 118.4, 115.6, 112.1, 109.7, 56.0, 56.0; Anal. Calcd for C15H15NO3. Theoretical: C, 70.02; H, 5.88; N, 5.44. Found: C, 70.00; H, 6.10; N, 5.13.

reactant | 3,4-dimethoxy-3'-nitrobenzophenone | 1.7 mmol, 0.5 g | COC=1C=C(C(=O)C2=CC(=CC=C2)[N+](=O)[O-])C=CC1OC | C15H13NO5
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 0.05 g | [Pd] | Pd
product | 3,4-Dimethoxy-3'-aminobenzophenone | 0.17 g, 38% | COC=1C=C(C(=O)C2=CC(=CC=C2)N)C=CC1OC | C15H15NO3
